US07320973B2
5,11-Dihydro-5-[2-(N-methylamino)ethyl]dibenzo[b,e][1,4]oxazepine (254 mg, 1.00 mmol, prepared by a method disclosed in International Patent No. 0040570A1), 3-pyrrolidinophenethyl mesylate (296 mg, 1.10 mmol), sodium carbonate (138 mg, 1.30 mmol) and sodium iodide (20 mg, 0.13 mmol) were added to acetonitrile (20 ml), and they were heated at 90° C. under reflux for 6.5 hours. The solvent was evaporated under reduced pressure, and the residue was distributed into ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with water and then dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was subjected to the silica gel column chromatography. After the elution with hexane and ethyl acetate (10:1) and then with hexane and ethyl acetate (3:1) as the eluent, suitable fractions were collected and the solvent was evaporated under reduced pressure to obtain 5,11-dihydro-5-[2-[N-methyl-N-(3-pyrrolidinophenethyl)amino]-ethyl]dibenzo[b,e][1,4]oxazepine in the form of a light yellow oily substance (331 mg, 78%).

reactant | 5,11-Dihydro-5-[2-(N-methylamino)ethyl]dibenzo[b,e][1,4]oxazepine | CNCCN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C16H18N2O
reactant | 3-pyrrolidinophenethyl mesylate | 1.10 mmol, 296 mg | S(C)(=O)(=O)OCCC1=CC(=CC=C1)N1CCCC1 | C13H19NO3S
reactant | sodium carbonate | 1.30 mmol, 138 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.13 mmol, 20 mg | [I-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5,11-dihydro-5-[2-[N-methyl-N-(3-pyrrolidinophenethyl)amino]-ethyl]dibenzo[b,e][1,4]oxazepine | CN(CCC1=CC(=CC=C1)N1CCCC1)CCN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C28H33N3O
